US07902356B2
2-(4-Chloro-phenyl)-5-(3-methoxy-4-triisopropylsilanyloxy-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one
Treat a solution 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid (3-methoxy-4-triisopropylsilanyloxy-phenyl)-amide (1.0 g, 1.79 mmol) in CH2Cl2 (30 mL) with Dess-Martin periodinane (1.13 g, 2.67 mmol). Stir at room temperature for 18 h, dilute with 1N NaOH, and extract with CH2Cl2 (2×). Dry, filter, and concentrate the organic solution and purify the crude material by flash chromatography, using a gradient of 0-10% MeOH in CH2Cl2 to give the title compound (0.47 g, 48%). MS (ES+) 541.0 (M+1)+. 1H NMR (400 MHz, CDCl3) δ: 8.01 (d, 2H, J=8.8 Hz), 7.46 (d, 2H, J=8.4 Hz), 7.41 (d, 1H, J=7.5 Hz), 6.93 (m, 3H), 6.81 (dd, 1H, J=8.4, 2.6 Hz), 3.80 (s, 3H), 1.25 (m, 3H), 1.09 (d, 18H, J=7.5 Hz).

reactant | 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid (3-methoxy-4-triisopropylsilanyloxy-phenyl)-amide | 1.79 mmol, 1.0 g | COC=1C=C(C=CC1O[Si](C(C)C)(C(C)C)C(C)C)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CCO | C28H37ClN2O4SSi
reactant | Dess-Martin periodinane | 2.67 mmol, 1.13 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1N | [OH-].[Na+]
product | 2-(4-Chloro-phenyl)-5-(3-methoxy-4-triisopropylsilanyloxy-phenyl)-5H-thiazolo[5,4-c]pyridin-4-one | 0.47 g, 48% | ClC1=CC=C(C=C1)C=1SC=2C(N(C=CC2N1)C1=CC(=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)OC)=O | C28H33ClN2O3SSi
